US08304557B2
ethyl {[(5-methoxypyridin-2-yl)amino]carbonothioyl}carbamate
In the same manner as in Reference Example 30 and using 5-methoxypyridin-2-amine (1.05 g, 8.43 mmol), DMSO (5 mL) and ethyl isothiocyanatoformate (1.44 g, 11.0 mmol) as starting materials, the title compound (1.34 g, 62%) was obtained as a white solid.

reactant | 5-methoxypyridin-2-amine | 8.43 mmol, 1.05 g | COC=1C=CC(=NC1)N | C6H8N2O
reactant | ethyl isothiocyanatoformate | 11.0 mmol, 1.44 g | N(=C=S)C(=O)OCC | C4H5NO2S
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | ethyl {[(5-methoxypyridin-2-yl)amino]carbonothioyl}carbamate | 1.34 g, 62% | COC=1C=CC(=NC1)NC(=S)NC(OCC)=O | C10H13N3O3S
